US07576072B2
Step B: Preparation of 6-bromo-7-chloro-5-methyl-3H-imidazo[4,5-b]pyridine:
A solution of 6-bromo-5-methyl-3H-imidazo[4,5-b]pyridine 4-oxide (1.00 equivalent) in POCl3 (excess) is stirred at 80° C. for 16 hours. The reaction mixture is concentrated in vacuo to give the crude material that is poured into ice-water. The resulting aqueous solution is neutralized with saturated aqueous NaHCO3 and extracted with EtOAc. The organic layer is dried over MgSO4, filtered, and concentrated in vacuo to afford the desired product. The product is purified by trituration or flash column chromatography if further purification is necessary.

reactant | 6-bromo-5-methyl-3H-imidazo[4,5-b]pyridine 4-oxide | 1.00 equivalent | BrC=1C=C2C(=[N+](C1C)[O-])NC=N2 | C7H6BrN3O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
product | 6-bromo-7-chloro-5-methyl-3H-imidazo[4,5-b]pyridine | BrC=1C(=C2C(=NC1C)NC=N2)Cl | C7H5BrClN3
